US05366972
c) 3-Amino-2-chloro-6-methyl-4-(trifluoromethyl)pyridine
To a solution of 6.6 g of sodium hydroxide in 60 ml of water at 5° C. was added 9.3 g of bromine. When a clear solution was obtained, 9.2 g of 3-aminocarbonyl-2-chloro-6-methyl-4-(trifluoromethyl)pyridine was added quickly, maintaining the temperature below 5° C. The resulting mixture was stirred until the 3-(aminocarbonyl)pyridine dissolved (~30 min). The cooling bath was removed and the mixture was then warmed to 75° C. for 30 min. After cooling to room temperature, the 3-aminopyridine product was extracted with ethyl acetate, dried (magnesium sulfate), filtered, and evaporated to give 4.9 g of the desired product.

reactant | sodium hydroxide | 6.6 g | [OH-].[Na+]
reactant | bromine | 9.3 g | BrBr | Br2
reactant | 3-aminocarbonyl-2-chloro-6-methyl-4-(trifluoromethyl)pyridine | 9.2 g | NC(=O)C=1C(=NC(=CC1C(F)(F)F)C)Cl | C8H6ClF3N2O
reactant | 3-(aminocarbonyl)pyridine | NC(=O)C=1C=NC=CC1 | C6H6N2O
solvent | water | 60 ml | O | H2O
product | 3-Amino-2-chloro-6-methyl-4-(trifluoromethyl)pyridine | 4.9 g | NC=1C(=NC(=CC1C(F)(F)F)C)Cl | C7H6ClF3N2
